### PR TITLE
Lean model for `core::borrow`, `core::convert`, `core::iter::range`: small utilities

### LINKED ISSUE #116: Lean model for `core::borrow`, `core::convert`, `core::iter::range`: small utilities
For each of the following functions from the standard library, convert the axiom to a def and add appropriate spec theorem(s).

- [ ] `Shared0T.Insts.CoreBorrowBorrow.borrow`
- [ ] `U32.Insts.CoreConvertTryFromU64TryFromIntError.try_from`
- [ ] `I32.Insts.CoreIterRangeStep.backward_checked`
- [ ] `I32.Insts.CoreIterRangeStep.forward_checked`
- [ ] `I32.Insts.CoreIterRangeStep.steps_between`

**Rust docs:**
- [`Borrow<T>::borrow`](https://doc.rust-lang.org/std/borrow/trait.Borrow.html#tymethod.borrow)
- [`TryFrom<u64>` for `u32`](https://doc.rust-lang.org/std/convert/trait.TryFrom.html)
- [`Step` trait](https://doc.rust-lang.org/std/iter/trait.Step.html)
- [`Step::backward_checked`](https://doc.rust-lang.org/std/iter/trait.Step.html#tymethod.backward_checked)
- [`Step::forward_checked`](https://doc.rust-lang.org/std/iter/trait.Step.html#tymethod.forward_checked)
- [`Step::steps_between`](https://doc.rust-lang.org/std/iter/trait.Step.html#tymethod.steps_between)

**Notes:** `Borrow::borrow` for shared references is the identity (`ok x`). `TryFrom<u64>` for `u32` returns `ok (ok v)` when the value fits in 32 bits and `ok (err TryFromIntError)` otherwise. The three `Step<i32>` functions drive `for` loops over `i32` ranges: `forward_checked start n` returns `some (start + n)` if the sum fits in `i32`, else `none`; `backward_checked start n` returns `some (start - n)` if the difference fits, else `none`; `steps_between a b` returns `(saturating_distance, Some(exact_distance))` when `a ≤ b` and `(0, None)` otherwise — the signature is `I32 → I32 → Result (Usize × Option Usize)`. All three have concrete arithmetic definitions; `forward_checked` is already converted to a `def` in FunsExternal as part of PR #98.

### PR DESCRIPTION
**Pull request by Zhang-Liao**
closes #116

### CODE REVIEW

File: Spqr/Code/TypesExternal.lean [hunk 1]
```diff
@@ -19,6 +19,14 @@ set_option maxHeartbeats 1000000
 @[rust_type "core::num::error::TryFromIntError"]
 axiom core.num.error.TryFromIntError : Type
 
+/-- A distinguished inhabitant of `core::num::error::TryFromIntError`.
+
+    In Rust `TryFromIntError` is a zero-sized struct (a single, fieldless
+    constructor), so postulating one inhabitant of the opaque type is sound.  It
+    is needed so that fallible integer conversions (e.g. `u64 → u32`) can produce
+    a concrete error value on the overflow branch. -/
+axiom core.num.error.TryFromIntError.error : core.num.error.TryFromIntError
```
Comment (oliver-butterley) [inline Spqr/Code/TypesExternal.lean]: Are you sure about this? This isn't an identifier that Aeneas is expecting. 

Although, I know this is a draft PR so feel free to ignore this, just mentioning in cases it is useful.

Comment (Zhang-Liao) [reply Spqr/Code/TypesExternal.lean]: @oliver-butterley  After more consideration, I feel that the original definition of [TryFromIntError](https://github.com/Beneficial-AI-Foundation/SparsePostQuantumRatchet-verify/blob/lean_model/Spqr/Code/TypesExternal.lean#L16-L20) seems to be wrong. I think it should be an inductive definition instead of a theorem. A type of error should at least have an instance, such as [errors](https://github.com/Beneficial-AI-Foundation/SparsePostQuantumRatchet-verify/blob/lean_model/Spqr/Code/Types.lean#L716-L722) defined in `Types.lean`. If we do not have such an inductive type definition for `TryFromIntError`, it would be impossible to define [try_from](https://github.com/Beneficial-AI-Foundation/SparsePostQuantumRatchet-verify/blob/lean_model/Spqr/Code/FunsExternal.lean#L65-L73).

**Comment by oliver-butterley** [comment]
I would suggest the following definition for the type:

```lean4
/-- [core::num::error::TryFromIntError]
    Source: '/rustc/library/core/src/num/error.rs', lines 10:0-10:26
    Name pattern: [core::num::error::TryFromIntError]
    Rust docs: https://doc.rust-lang.org/std/num/struct.TryFromIntError.html

    In Rust `TryFromIntError` is the error type returned when a checked integral type conversion
    fails. Modeled as a fieldless singleton structure, its unique value `{}` is the error produced
    on the overflow branch of fallible integer conversions (e.g. `u64 → u32`). -/
@[rust_type "core::num::error::TryFromIntError"]
structure core.num.error.TryFromIntError deriving DecidableEq, Inhabited
```

Then for `try_from`, something very similar to what you currently have:

```lean4
def try_from (value : Std.U64) : Result (core.result.Result Std.U32 TryFromIntError) :=
    match UScalar.tryMkOpt .U32 value.val with
    | some v => ok (core.result.Result.Ok v)
    | none   => ok (core.result.Result.Err {})
```

Take a look at the linked Rust docs to see if this is a faithful model of the Rust code.

Note that `U32_try_from_spec` should not be marked as private else it will be useless when we need it later! Moreover, let's keep the naming consistent in this project so it should be called `U32.Insts.CoreConvertTryFromU64TryFromIntError.try_from_spec`. For convenience, you could open the namespace `U32.Insts.CoreConvertTryFromU64TryFromIntError` around both the definition and the spec theorems to make it clearer (code here is stated assuming such namespacing). Also using `open` makes the code more readable.

For the statement of the spec theorem, I would suggest something similar to what you currently have but with the inequalities never negated. Moreover the proof can be much shorter. Put together, I would suggest for the def and spec theorem:

```lean4
namespace U32.Insts.CoreConvertTryFromU64TryFromIntError
open core.num.error

/-- [core::convert::num::{core::convert::TryFrom<u64, core::num::error::TryFromIntError> for u32}::try_from]:
    Source: '/rustc/library/core/src/convert/num.rs', lines 294:12-294:64
    Name pattern: [core::convert::num::{core::convert::TryFrom<u32, u64, core::num::error::TryFromIntError>}::try_from]
    Rust docs: https://doc.rust-lang.org/std/primitive.u32.html#impl-TryFrom%3Cu64%3E-for-u32

    Concrete model of Rust's `TryFrom<u64> for u32`: the conversion succeeds with `Ok v` exactly
    when `value` fits in a `u32` and otherwise returns `Err` carrying a `TryFromIntError`.  The
    outer `Result` is always `ok` since the call never panics. -/
@[rust_fun "core::convert::num::{core::convert::TryFrom<u32, u64, core::num::error::TryFromIntError>}::try_from"]
def try_from (value : Std.U64) : Result (core.result.Result Std.U32 TryFromIntError) :=
    match UScalar.tryMkOpt .U32 value.val with
    | some v => ok (core.result.Result.Ok v)
    | none   => ok (core.result.Result.Err {})

/-- Spec for `<u32 as TryFrom<u64>>::try_from`: the conversion never panics, and succeeds with 
`Ok v` (`v.val = value.val`) iff `value.val ≤ U32.max`, otherwise returns `Err`. -/
@[step]
theorem try_from_spec (value : U64) :
    try_from value ⦃ (r : core.result.Result U32 TryFromIntError) =>
      match r with
      | .Ok v  => value.val ≤ U32.max ∧ v.val = value.val
      | .Err _ => U32.max < value.val ⦄ := by
  unfold try_from
  have htry := UScalar.tryMkOpt_eq .U32 value.val
  step*

end U32.Insts.CoreConvertTryFromU64TryFromIntError
```

File: SrcTranslated/TypesExternal.lean [hunk 2]
```diff
@@ -18,7 +18,8 @@ set_option maxHeartbeats 1000000
     Source: '/rustc/library/core/src/num/error.rs', lines 10:0-10:26
     Name pattern: [core::num::error::TryFromIntError] -/
 @[rust_type "core::num::error::TryFromIntError"]
-axiom core.num.error.TryFromIntError : Type
+-- axiom core.num.error.TryFromIntError : Type
```
Comment (oliver-butterley) [inline SrcTranslated/TypesExternal.lean]:
```suggestion

```

Remove the commented out axiom now it's a real definition

File: SrcTranslated/FunsExternal.lean [hunk 3]
```diff
@@ -201,13 +238,35 @@ axiom core.iter.adapters.map.Map.Insts.CoreIterTraitsIteratorIterator.collect
...
+    `None` otherwise.  The outer `Result` is always `ok` (the call
+    never panics). -/
 @[rust_fun
   "core::iter::range::{core::iter::range::Step<i32>}::backward_checked"]
-axiom I32.Insts.CoreIterRangeStep.backward_checked
-  : Std.I32 → Std.Usize → Result (Option Std.I32)
+def backward_checked : Std.I32 → Std.Usize → Result (Option Std.I32) :=
+  fun start n => ok (IScalar.tryMkOpt .I32 (start.val - n.val))
+
+/-- **Spec theorem for `Step<i32>::backward_checked` with step 1**
```
Comment (truonghoangle) [inline SrcTranslated/FunsExternal.lean:255]: Why did you write the specification for only step 1?

**Comment by truonghoangle** [comment]
The definitions correspond to the Rust code. I suggest writing the definitions below using a match style whenever there are options, rather than using an implicit ok form. This would make the blocking conditions much clearer. The specification theorems should also be written in this explicit style so that all conditions and their applicability are transparent and easy to reason about. Example: 

``` 
@[step]
theorem steps_between_spec
    (start end_ : I32) :
    sb start end_ ⦃ (pair : Usize × Option Usize) =>
      if start.val ≤ end_.val then
        let diff := (end_.val - start.val).toNat
        match pair.2 with
        | some hi => diff ≤ Usize.max ∧ pair.1.val = diff ∧ hi.val = diff
        | none    => ¬ (diff ≤ Usize.max) ∧ pair.1.val = Usize.max
      else
        pair.1.val = 0 ∧ pair.2 = some pair.1 ⦄ := by
```

File: SrcTranslated/FunsExternal.lean (hunk 3 above)
Comment (Zhang-Liao) [reply SrcTranslated/FunsExternal.lean:255]: I choose step one since [previous specification theorems](https://github.com/Beneficial-AI-Foundation/SparsePostQuantumRatchet-verify/blob/main/SrcTranslated/FunsExternal.lean#L228-L250) uses step one to confirm the correctness of the function defintion. I use the same convention.

**Comment by Zhang-Liao** [comment]
@truonghoangle 
The issue mentioned by you has be resolved. I use `| none => False` instead of  `| none    => ¬ (diff ≤ Usize.max) ∧ pair.1.val = Usize.max` since this branch never occurs in the program running. The reason is explained in the annotations
```
The `none` branch is `False`: since
  `i32` is no wider than `usize`, `diff = end_.val - start.val` always fits in
  `usize`, so `UScalar.tryMkOpt` always returns `some` and the `none` case is
  not accessible.
```
I also change definitions related to this PR like `def steps_between : Std.I32 → Std.I32 → Result (Std.Usize × (Option Std.Usize)) :=  fun a b =>` to `def steps_between (start end_ : Std.I32) : Result (Std.Usize × (Option Std.Usize)) :=` since I think the latter is more concise.

**Review by truonghoangle — APPROVED** [review]

File: SrcTranslated/FunsExternal.lean (hunk 3 above)
Comment (oliver-butterley) [reply SrcTranslated/FunsExternal.lean:255]: Nice observation, both of you! 

At first glance I would say the spec should be for `n`, not just for `1`. Does anyone have some insight on what is useful where the spec is used? Perhaps we need to update both of these spec theorems.

Comment (truonghoangle) [reply SrcTranslated/FunsExternal.lean:255]: I don't have an answer regarding this specification, but for the specification of the theorem @Zhang-Liao  mentioned, using `1` is fine because it is used for induction across loop steps (though, of course, using `n` would be better).

Comment (Zhang-Liao) [reply SrcTranslated/FunsExternal.lean:255]: Currently, the only consumption of such specifications is in [RangeIteratorNext](https://github.com/Beneficial-AI-Foundation/SparsePostQuantumRatchet-verify/blob/main/Spqr/Specs/Aeneas/RangeIteratorNext.lean#L73). It only uses step `1`.

However, our codebase also has Rust code with steps other than `1`.
[step_by(Self::KEY_SIZE) ](https://github.com/Beneficial-AI-Foundation/SparsePostQuantumRatchet-verify/blob/main/src/chain.rs#L197) and [step_by(2)](https://github.com/Beneficial-AI-Foundation/SparsePostQuantumRatchet-verify/blob/main/src/incremental_mlkem768.rs#147) also exist in our project. In this case, step `1` might be insufficient.

Hence, I propose to change all such specifications to use step `n` and open an issue about it.

Comment (oliver-butterley) [reply SrcTranslated/FunsExternal.lean:255]: Great, that's very useful info. @Zhang-Liao  could you open an issue listing the spec theorems that need updating so we don't forget?
